US08497288B2
d) (6S,7aS)-6-Butoxymethyl-6-hydroxy-2-[4-(2,2,2-trifluoro-ethoxy)-phenyl]-hexahydro-pyrrolo[1,2-c]imidazol-3-one
To a stirred solution of (2S,7a′S)-2′-[4-(2,2,2-trifluoroethoxy)phenyl]tetrahydro-3′H-spiro[oxirane-2,6′-pyrrolo[1,2-c]imidazol]-3′-one (40 mg, 0.121 mmol) in butanol (5 mL) was added NaH (60% in oil, 7.3 mg, 0.18 mmol) and heated to reflux for 12 h. The reaction mixture quenched with water and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over Na2SO4 and concentrated. The residue purified by column chromatography on silica eluting with ethyl acetate/hexane to yield 12 mg (24%) of the title compound as white solid. LC-MS: 403.0 [M+1]+.

reactant | (2S,7a′S)-2′-[4-(2,2,2-trifluoroethoxy)phenyl]tetrahydro-3′H-spiro[oxirane-2,6′-pyrrolo[1,2-c]imidazol]-3′-one | 0.121 mmol, 40 mg | FC(COC1=CC=C(C=C1)N1C(N2[C@H](C1)C[C@@]1(C2)OC1)=O)(F)F | C15H15F3N2O3
reactant | NaH | 0.18 mmol, 7.3 mg | [H-].[Na+]
reactant | butanol | 5 mL | C(CCC)O | C4H10O
product | (6S,7aS)-6-Butoxymethyl-6-hydroxy-2-[4-(2,2,2-trifluoro-ethoxy)-phenyl]-hexahydro-pyrrolo[1,2-c]imidazol-3-one | 12 mg, 24% | C(CCC)OC[C@@]1(C[C@@H]2N(C(N(C2)C2=CC=C(C=C2)OCC(F)(F)F)=O)C1)O | C19H25F3N2O4
